US08378102B2
Hydrogen chloride (20 mL of a 4 M solution in 1,4-dioxane) was added to a stirred suspension of tert-butyl(4-amino[1,3]thiazolo[4,5-c]quinolin-2-yl)methoxycarbamate (3.63 g, 10.5 mmol) in dichloromethane (80 mL). The reaction was stirred for 4.5 hours at room temperature and then concentrated under reduced pressure to provide 3.65 g of 2-(aminooxy)methyl[1,3]thiazolo[4,5-c]quinolin-4-amine trihydrochloride as a yellow solid.

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl(4-amino[1,3]thiazolo[4,5-c]quinolin-2-yl)methoxycarbamate | 10.5 mmol, 3.63 g | C(C)(C)(C)OC(NOCC=1SC2=C(C(=NC=3C=CC=CC23)N)N1)=O | C16H18N4O3S
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 2-(aminooxy)methyl[1,3]thiazolo[4,5-c]quinolin-4-amine trihydrochloride | 3.65 g | Cl.Cl.Cl.NOCC=1SC2=C(C(=NC=3C=CC=CC23)N)N1 | InChI=1S/C11H10N4OS.3ClH/c12-11-9-10(17-8(15-9)5-16-13)6-3-1-2-4-7(6)14-11;;;/h1-4H,5,13H2,(H2,12,14);3*1H
